US06696473B2
Preparation of 2-(5-Acetyl-2-ethylaminophenylimino)-3-benzyl-5-(1-methyl-1H-quinolin-2-ylidene)thiazolidin-4-one
In a manner similar to Example 102, 1-methyl-2-methylthioquinolinium p-toluenesulfonate was condensed with 2-(5-acetyl-2-ethylaminophenylimino)-3-benzylthiazolidin-4-one to afford the title compound. 1H-NMR (CDCl3): δ 7.66-7.71 (2H, m), 7.43-7.56 (4H, m), 7.20-7.38 (7H, m), 6.53 (1H, d), 5.20 (2H, s), 3.78 (3H, br s), 3.07 (2H, q), 2.51 (3H, s), 1.06 (3H, t); MS(ESI): 509 (MH+).

reactant | 1-methyl-2-methylthioquinolinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C[N+]1=C(C=CC2=CC=CC=C12)SC
reactant | 2-(5-acetyl-2-ethylaminophenylimino)-3-benzylthiazolidin-4-one | C(C)(=O)C=1C=CC(=C(C1)N=C1SCC(N1CC1=CC=CC=C1)=O)NCC | C20H21N3O2S
product | 2-(5-Acetyl-2-ethylaminophenylimino)-3-benzyl-5-(1-methyl-1H-quinolin-2-ylidene)thiazolidin-4-one | C(C)(=O)C=1C=CC(=C(C1)N=C1SC(C(N1CC1=CC=CC=C1)=O)=C1N(C2=CC=CC=C2C=C1)C)NCC | C30H28N4O2S
